.SUBCKT irfp26n60l 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul  9, 03
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=5.34511 LAMBDA=0.0195867 KP=4.49417
+CGSO=5.00406e-05 CGDO=6.366e-11
RS 8 3 0.0299674
D1 3 1 MD
.MODEL MD D IS=7.42709e-09 RS=0.00708037 N=1.30284 BV=600
+IBV=0.00025 EG=1 XTI=1.94582 TT=1e-07
+CJO=4.93602e-09 VJ=0.5 M=0.55053 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.108519
RG 2 7 3.97822
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=6.00715e-09 VJ=0.5 M=0.9 FC=1.73156e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=0.000616203
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 6.009e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irfp26n60l

*SPICE Thermal Model Subcircuit
.SUBCKT irfp26n60lt 3 0

R_RTHERM1         3 2  0.091815562
R_RTHERM2         2 1  0.029567723
R_RTHERM3         1 0  0.149394813
C_CTHERM1         3 0  0.001927778
C_CTHERM2         2 0  0.005986257
C_CTHERM3         1 0  0.160480806

.ENDS irfp26n60lt

